US04772620
Nitromethyleneimidazolidine (1.3 g) was dissolved in dry dimethylformamide (15 ml), and sodium hydride (0.26 g) was added. The mixture was stirred at room temperature until the generation of hydrogen ceased. Subsequently, a solution of 2.4 g of 3-methoxy-2-nitro-6-pyridylmethyl bromide in 5 ml of dimethylformamide was added, and the mixture was stirred at 60° C. for 15 minutes. The reaction mixture was cooled to room temperature, poured into 50 ml of ice water, and extracted with dichloromethane. Dichloromethane was distilled off under reduced pressure, and ethanol was added to the residue to precipitate crystals. The crystals were collected by filtration and washed with ethanol to give 1-(3-methoxy-2-nitro-6-methylpyridylmethyl)-2-nitromethyleneimidazolidine (0.4 g). mp. 177°-181° C.

reactant | Nitromethyleneimidazolidine | 1.3 g | [N+](=O)([O-])C=C1NCCN1 | C4H7N3O2
reactant | sodium hydride | 0.26 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 3-methoxy-2-nitro-6-pyridylmethyl bromide | 2.4 g | COC=1C(=NC(=CC1)CBr)[N+](=O)[O-] | C7H7BrN2O3
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(3-methoxy-2-nitro-6-methylpyridylmethyl)-2-nitromethyleneimidazolidine | 0.4 g | COC=1C(=NC(=CC1CN1C(NCC1)=C[N+](=O)[O-])C)[N+](=O)[O-] | C12H15N5O5
